US04251454
A mixture of 8.96 g. of 3,4,5-tris(dimethylamino)-α-[(methylsulfonyl)methyl]benzyl alcohol, 2.56 g. of sodium methylate and 6.6 g. of β-anilinopropionitrile in 70 ml. of dimethylsulfoxide was stirred at room temperature under nitrogen for 50 minutes. The mixture was poured into 500 ml. of ice water, the separated oil extracted with ethyl acetate, the ethyl acetate solution dried over sodium sulfate and evaporated. By purification of the residue over aluminum oxide with benzene and recrystallization from ethanol, there was obtained α-(anilinomethylene)-3,4,5-tris(dimethylamino)hydrocinnamonitrile having a melting point of 179°-181° C.

reactant | 3,4,5-tris(dimethylamino)-α-[(methylsulfonyl)methyl]benzyl alcohol | CN(C=1C=C(C(CS(=O)(=O)C)O)C=C(C1N(C)C)N(C)C)C | C15H27N3O3S
reactant | sodium methylate | C[O-].[Na+]
reactant | β-anilinopropionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | α-(anilinomethylene)-3,4,5-tris(dimethylamino)hydrocinnamonitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=CC(=C(C(=C1)N(C)C)N(C)C)N(C)C | C22H29N5
